US03932452
C. 2-Bromo-5-(chloromethyl)-naphthalene
A 39.5 g (0.167 mole) portion of 2-bromo-5-(hydroxymethyl)-naphthalene in 300 ml of chloroform was treated at 0°-5° over 0.3 hours with 75 ml (123 g, 1.03 mole) of SOCl2. The reaction mixture was allowed to warm to room temperature over 0.5 hours, heated to reflux over 0.2 hours, and allowed to cool slowly to room temperature and filtered. The filtrate was concentrated under reduced pressure. The residue was taken up in 150 ml of benzene and again concentrated under reduced pressure to give 43 g (100%) of a light yellow oil which crystallized, m.p. 73°-76°.

reactant | 2-bromo-5-(hydroxymethyl)-naphthalene | BrC1=CC2=CC=CC(=C2C=C1)CO | C11H9BrO
reactant | SOCl2 | 1.03 mole, 75 ml, 123 g | O=S(Cl)Cl | Cl2OS
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Bromo-5-(chloromethyl)-naphthalene | 43 g, 100% | BrC1=CC2=CC=CC(=C2C=C1)CCl | C11H8BrCl
